US09029538B2
To a solution of 4-fluoroaniline (1.0 g, 9.01 mmol) in THF (20 mL) at 0° C., was slowly added ethyl isocyanate (0.70 g, 10.0 mmol). After stirring 30 min. at 0° C., the solution was warmed to rt and the solvent was removed under vacuum. To the residue was added ethanol (30 mL), diethyl ethoxymethylenemalonate (1.95 g, 9.01 mmol) and 21% NaOEt in ethanol (2.92 mL, 9.01 mmol)) and the reaction stirred 48 h at rt. The solvent was removed under vacuum and cold conc. HCl was added to pH 6. The aqueous layer was removed under vacuum and the solids were crystallized from ethyl acetate and hexanes. 3-Ethyl-1-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid ethyl ester isomer was isolated in 25% yield. 1H NMR (CDCl3) δ: 8.32 (s, 1H), 7.20-7.14 (m, 4H), 4.35 (q, 2H, J=7.1 Hz), 3.95 (q, 2H, J=7.2 Hz), 1.42 (t, 3H, J=7.2 Hz), 1.36 (t, 3H, J=7.2 Hz).

reactant | 4-fluoroaniline | 9.01 mmol, 1.0 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | ethyl isocyanate | 10.0 mmol, 0.70 g | C(C)N=C=O | C3H5NO
reactant | diethyl ethoxymethylenemalonate | 9.01 mmol, 1.95 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | NaOEt | CC[O-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | ethanol | 9.01 mmol, 2.92 mL | C(C)O | C2H6O
product | 3-Ethyl-1-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid ethyl ester | 25% yield | C(C)OC(=O)C=1C(N(C(N(C1)C1=CC=C(C=C1)F)=O)CC)=O | C15H15FN2O4
